datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"BrCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>BrCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH+:21](CC)[H:20].O=C(CCCl)[O-:10]>>C=C(C)C(=O)OCC[NH:21]CC.O=C(CCCl)[O:10][H:20] 10=20;20,21=21",
"CCC[NH:10]CCN.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC[NH+:10](CCN)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cn1c[n+:21]([H:20])c2ccccc21.O=C([C@@H]1O[C@H](Oc2ccc3[nH+]c(O)ccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O-:10]>>Cn1c[n:21]c2ccccc21.O=C([C@@H]1O[C@H](Oc2ccc3[nH+]c(O)ccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].N[C@H]1C[C@@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.N[C@H]1C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"COCC[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])=C1>>COCC[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)=C1 10=20;20,21=21",
"CC(CCC(=O)[O-])[NH2+:21][H:20].C[Si](C)(C)CCC(=O)[O-:10]>>CC(CCC(=O)[O-])[NH2:21].C[Si](C)(C)CCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC(CN(C)C)[N:10](C)C.Cc1[nH][n+:21]([H:20])c(O)c1C(C)C>>CC(CN(C)C)[N+:10](C)(C)[H:20].Cc1[nH][n:21]c(O)c1C(C)C 10=20;20,21=21",
"C=CCSSC(CCO)=C(C)N(C=O)Cc1c[n+:21]([H:20])c(C)nc1N.CCC(CO)[NH:10]Cl>>C=CCSSC(CCO)=C(C)N(C=O)Cc1c[n:21]c(C)nc1N.CCC(CO)[NH+:10](Cl)[H:20] 10=20;20,21=21",
"COc1cc([N+](=O)[O-])cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1OC.OCc1nc2ncncc2[n-:10]1>>COc1cc([N+](=O)[O-])cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1OC.OCc1nc2ncncc2[n:10]1[H:20] 10=20;20,21=21",
"Oc1ccc(CC[NH2:10])cc1O.[O-]c1c2ccccc2cn[n+:21]1[H:20]>>Oc1ccc(CC[NH2+:10][H:20])cc1O.[O-]c1c2ccccc2cn[n:21]1 10=20;20,21=21",
"Cc1ccccc1/C(=N\CCC[N+:21](C)(C)[H:20])c1ccccc1Cl.c1ccc2c(c1)ccc1c2cc2ccccc2[n:10]1>>Cc1ccccc1/C(=N\CCC[N:21](C)C)c1ccccc1Cl.c1ccc2c(c1)ccc1c2cc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"O=C(c1ccncc1)[N:21](O)[H:20].c1ccc2c(c1)ncc1ccc([O-:10])cc12>>O=C(c1ccncc1)[N-:21]O.c1ccc2c(c1)ncc1ccc([O:10][H:20])cc12 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCO>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCO)[H:20] 10=20;20,21=21",
"CC(=O)[C@@H]1C[C@H](C(=O)[O:21][H:20])C1(C)C.[O-]c1ncncc1[O-:10]>>CC(=O)[C@@H]1C[C@H](C(=O)[O-:21])C1(C)C.[O-]c1ncncc1[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C(=O)[O:21][H:20])ccc1O.[NH3+]CCCCc1cc[n:10]cc1>>Cc1cc(C(=O)[O-:21])ccc1O.[NH3+]CCCCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CCC[NH:10]Cc1ccc(C)cc1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCC[NH+:10](Cc1ccc(C)cc1)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"COc1cc[n:10]c2ccccc12.[O-]c1c2ncccc2nc[n+:21]1[H:20]>>COc1cc[n+:10]([H:20])c2ccccc12.[O-]c1c2ncccc2nc[n:21]1 10=20;20,21=21",
"CC(C)[NH:10]CC(=O)c1ccc([O-])cc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[NH+:10](CC(=O)c1ccc([O-])cc1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"COCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1>>COCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1 10=20;20,21=21",
"CC1CCCC(C(C)C(=O)[O-:10])C1.O=C1C=C([O:21][H:20])c2ccccc2O1>>CC1CCCC(C(C)C(=O)[O:10][H:20])C1.O=C1C=C([O-:21])c2ccccc2O1 10=20;20,21=21",
"CCc1cc(C)c[n:10]c1.O=C(NCC[NH:21][H:20])c1ccccc1>>CCc1cc(C)c[n+:10]([H:20])c1.O=C(NCC[NH-:21])c1ccccc1 10=20;20,21=21",
"Fc1cccc([N:21](C(=S)c2ccc(Cl)cc2)[H:20])c1.OCC[NH:10]C1CC[NH+](Cc2ccccc2)CC1>>Fc1cccc([N-:21]C(=S)c2ccc(Cl)cc2)c1.OCC[NH+:10](C1CC[NH+](Cc2ccccc2)CC1)[H:20] 10=20;20,21=21",
"COC(=O)CSC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])=C1>>COC(=O)CSC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)=C1 10=20;20,21=21",
"Cc1cc(C)cc(C(=O)[O:21][H:20])c1.O=C(c1ccccc1)N1CC(=O)[N-:10]C1=S>>Cc1cc(C)cc(C(=O)[O-:21])c1.O=C(c1ccccc1)N1CC(=O)[N:10]([H:20])C1=S 10=20;20,21=21",
"CC(C)SCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)SCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[n+]1ccc2cc([O-:10])ccc2c1.Cc1cc(C)c(C)c(C(=O)[O:21][H:20])c1C>>C[n+]1ccc2cc([O:10][H:20])ccc2c1.Cc1cc(C)c(C)c(C(=O)[O-:21])c1C 10=20;20,21=21",
"O=S(=O)([O-])c1ccc([O-:10])c2cn[nH]c12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=S(=O)([O-])c1ccc([O:10][H:20])c2cn[nH]c12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+](C)(C)CCC[N+](C)(C)CCCNC(=O)/C=N/[O:21][H:20].[O-]c1ccc(CC[NH2:10])cc1>>C[N+](C)(C)CCC[N+](C)(C)CCCNC(=O)/C=N/[O-:21].[O-]c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(=O)C(C[N+:21]1([H:20])CCOCC1)c1ccccc1.Clc1cc(Cl)c([O-:10])c(C[NH+]2CCCCC2)c1Cl>>CC(=O)C(C[N:21]1CCOCC1)c1ccccc1.Clc1cc(Cl)c([O:10][H:20])c(C[NH+]2CCCCC2)c1Cl 10=20;20,21=21",
"NNC(=O)C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NNC(=O)C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
